US04198334
21.9 g (0.05 mole) of ethylmalonic acid-bis-(1,2,2,6,6-pentamethyl-4-piperidinyl)ester, 20.5 g (0.05 mole) of malonic acid-bis-(1,2,2,6,6-pentamethyl-4-piperidinyl)ester, 1.5 g (0.05 mole) of paraformaldehyde and 0.5 g of NaH are stirred in 120 ml of toluene for half an hour at room temperature and then for 7 hours at reflux temperature. After cooling, there is added 13.2 g (0.05 mole) of N-(3,5-di-tert.butyl-4-hydroxybenzyl)-dimethylamine, and the mixture is heated for 4 hours under reflux. Processing analogously to Example 1 yields 1-(3,5-di-tert.butyl-4-hydroxyphenyl)-2,2,4,4-tetra-(1,2,2,6,6-pentamethyl-4-piperidinyloxycarbonyl)-hexane as an oily residue.

reactant | ethylmalonic acid-bis-(1,2,2,6,6-pentamethyl-4-piperidinyl)ester | 0.05 mole, 21.9 g | CN1C(CC(CC1(C)C)OC(C(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)CC)=O)(C)C | C25H46N2O4
reactant | malonic acid-bis-(1,2,2,6,6-pentamethyl-4-piperidinyl)ester | 0.05 mole, 20.5 g | CN1C(CC(CC1(C)C)OC(CC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)=O)(C)C | C23H42N2O4
reactant | paraformaldehyde | 0.05 mole, 1.5 g | C=O | CH2O
reactant | NaH | 0.5 g | [H-].[Na+]
reactant | N-(3,5-di-tert.butyl-4-hydroxybenzyl)-dimethylamine | 0.05 mole, 13.2 g | C(C)(C)(C)C=1C=C(CN(C)C)C=C(C1O)C(C)(C)C | C17H29NO
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3,5-di-tert.butyl-4-hydroxyphenyl)-2,2,4,4-tetra-(1,2,2,6,6-pentamethyl-4-piperidinyloxycarbonyl)-hexane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CC(CC(CC)(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)(C(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C64H110N4O9
